US08497371B2
2-(4-{[(4-trifluoromethylphenyl)amino]carbonothioyl}-1-piperazinyl)-8-ethyl-5-oxo-5,8-dihydropyrido[2,3-d]pyrimidine-6-carboxylic acid (31)
Pipemidic acid (30 mg, 0.0989 mmol) and 4-trifluoromethylphenyl isothiocyanate (16.7 mg, 0.0824 mmol) were used. Purification on silica yielded compound 31 in Table 1, below (31 mg, 77%). 1H NMR (300 MHz, CDCl3) δ 9.34 (s, 1H), 8.69 (s, 1H), 7.65-7.57 (m, 2H), 7.51 (s, 1H), 7.37-7.31 (m, 2H), 4.34 (q, J=6.80 Hz, 2H), 4.27-3.97 (m, 8H), 1.49 (t, J=7.25, 7.25 Hz, 3H) ppm.

reactant | Pipemidic acid | 0.0989 mmol, 30 mg | CCN1C=C(C(=O)C2=C1N=C(N=C2)N3CCNCC3)C(=O)O | C14H17N5O3
reactant | 4-trifluoromethylphenyl isothiocyanate | 0.0824 mmol, 16.7 mg | FC(C1=CC=C(C=C1)N=C=S)(F)F | C8H4F3NS
product | 2-(4-{[(4-trifluoromethylphenyl)amino]carbonothioyl}-1-piperazinyl)-8-ethyl-5-oxo-5,8-dihydropyrido[2,3-d]pyrimidine-6-carboxylic acid | FC(C1=CC=C(C=C1)NC(=S)N1CCN(CC1)C=1N=CC2=C(N1)N(C=C(C2=O)C(=O)O)CC)(F)F | C22H21F3N6O3S
